US07138425B2
a) 4-(3-Nitrobenzamido)-3-hydroxybenzoic acid methyl ester
Prepared by the method of Example 15b), from methyl 3-hydroxy-4-aminobenzoate (12.94 g, 77.0 mmol) and 3-nitrobenzoyl chloride (14.29 g, 77.0 mmol) the subtitle compound was obtained (22.45 g, 92%). The product was used directly in the next step without purification.

reactant | methyl 3-hydroxy-4-aminobenzoate | 77.0 mmol, 12.94 g | OC=1C=C(C(=O)OC)C=CC1N | C8H9NO3
reactant | 3-nitrobenzoyl chloride | 77.0 mmol, 14.29 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | 4-(3-Nitrobenzamido)-3-hydroxybenzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O)O)=O | C15H12N2O6
